US04391286
Example 5: Take-up of Diammonium Dithioglycolate by Various Types of Hair
Four types of hair were treated for 15 minutes either with a 2.5 weight percent solution of diammonium dithiodiglycolate at pH 7.0 or with deionized water. The hair was centrifuged at 2,800 r.p.m. for 30 minutes to remove excess surface liquid and then dried in a vacuum oven at 110° C. for one hour. The weight gain corresponding to the take-up of the dithiodiglycolic acid salt was then determined by subtracting any weight gain of the control samples from the test sample weight gains.

reactant | diammonium dithiodiglycolate | C(COCC(=S)[O-])(=S)[O-].[NH4+].[NH4+]
reactant | water | O | H2O
product | Diammonium Dithioglycolate | C(CS)(=O)[O-].C(CS)(=O)[O-].[NH4+].[NH4+] | InChI=1S/2C2H4O2S.2H3N/c2*3-2(4)1-5;;/h2*5H,1H2,(H,3,4);2*1H3
